US07652143B2
1-(4-Benzyloxybenzyl)imidazolidin-2-one (1.0 g; 3.54 mmol) was dissolved in dimethylformamide (DMF, 10 ml). NaH (60% in mineral oil; 0.085 g; 3.54 mol) was added, and the mixture was heated at 40° C. for 1 h. Then ethyl 2-bromoisovalerate (0.74 g; 3.54 mmol) were added, and heating was continued at 60° C. for 4 h. The reaction was stopped by slow addition of water (1 ml). The solvent was removed under reduced pressure, and the residue was partitioned between water (50 ml) and EtOAc (50 ml). Dilute HCl was added until the pH of the aqueous phase was about 4. The phases were then separated, and the aqueous phase was extracted with EtOAc (2×; 30 ml). The combined organic phases were dried over MgSO4. The solvent was removed under reduced pressure. Purification of the residue by column chromatography on silica gel (SiO2) resulted in ethyl 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate (0.38 g; 0.92 mmol). MS: 411.15 (M+H); Rt: 1.87 min (method: gradient 0 min 90% H2O (0.05% TFA) 1.9 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 10% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | 1-(4-Benzyloxybenzyl)imidazolidin-2-one | 3.54 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(NCC2)=O)C=C1 | C17H18N2O2
reactant | NaH | 3.54 mol, 0.085 g | [H-].[Na+]
reactant | ethyl 2-bromoisovalerate | 3.54 mmol, 0.74 g | BrC(C(=O)OCC)C(C)C | C7H13BrO2
reactant | water | 1 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 2-(3-(4-benzyloxybenzyl)-2-oxoimidazolidin-1-yl)-3-methylbutyrate | 0.92 mmol, 0.38 g | C(C1=CC=CC=C1)OC1=CC=C(CN2C(N(CC2)C(C(=O)OCC)C(C)C)=O)C=C1 | C24H30N2O4
